US04203988
A. t-Butyl 2,6-Dichloroisonicotinate
A solution of 2,6-dichloroisonicotinic acid (38.4 g, 0.20 mole) in thionyl chloride (60 ml.) and cyclohexane (100 ml) containing a few drops of dimethylformamide is heated at 80° for three hours. The solution is cooled and excess thionyl chloride and cyclohexane are removed in vacuo. The residue is dissolved in chloroform (40 ml.) and added dropwise to a solution of t-butanol (50 ml.) and N,N-dimethylaniline (40 ml.). The solution is heated at reflux for six hours, cooled, diluted with diethyl ether and washed successively with water, water containing 4 ml. of concentrated sulfuric acid, water, dilute sodium carbonate solution and dried over anhydrous sodium sulfate. The solvent is removed under vacuum and the residue is crystallized from a minimum amount of methanol to give 24 g. of product, m.p. 79°-81°.

reactant | 2,6-dichloroisonicotinic acid | 0.20 mole, 38.4 g | ClC=1C=C(C(=O)O)C=C(N1)Cl | C6H3Cl2NO2
solvent | thionyl chloride | 60 ml | S(=O)(Cl)Cl | Cl2OS
solvent | cyclohexane | 100 ml | C1CCCCC1 | C6H12
catalyst | dimethylformamide | a few drops | CN(C=O)C | C3H7NO
product | t-Butyl 2,6-Dichloroisonicotinate | ClC=1C=C(C(=O)OC(C)(C)C)C=C(N1)Cl | C10H11Cl2NO2
